US06140051
2-Cyano-7-fluoro-6-hydroxybenzothiazole.
To a suspension of 2-cyano-6-hydroxybenzothiazole (2.0 g, 11.4 mmol) in dichloromethane (50 ml) in a 250-ml round-bottomed flask was added 3,5-dichloro-1-fluoropyridinium triflate (6.1 g, 19.3 mmol). The reaction flask was fitted with a reflux condenser and the mixture was brought to reflux under argon atmosphere for 53 hr. Additional 3,5-dichloro-1-fluoropydidinium toiflate was added (1.0 g, 3.2 mmol) and reaction continued for another 22 hr. Additional 3,5-dichloro-1-fluoropylidinium triflate was added (1.0 g, 3.2 mmol)and reaction continued for another 27 hr. Additional 3,5-dichloro-1-fluoropyridinium triflate was again added (1.0 g, 3.2 mmol) and reaction continued for another 72 hr. The reaction mixture was concentrated by rotoevaporation to give a brown residue that was purified by flash chromatography with 100 g of silica gel and methylene chloride as eluting solvent. The title compound was obtained as a white solid. Yield: 0.97 g (44%).

reactant | 2-cyano-6-hydroxybenzothiazole | 11.4 mmol, 2.0 g | C(#N)C=1SC2=C(N1)C=CC(=C2)O | C8H4N2OS
reactant | 3,5-dichloro-1-fluoropyridinium triflate | 19.3 mmol, 6.1 g | [O-]S(=O)(=O)C(F)(F)F.ClC=1C=[N+](C=C(C1)Cl)F
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Cyano-7-fluoro-6-hydroxybenzothiazole | C(#N)C=1SC2=C(N1)C=CC(=C2F)O | C8H3FN2OS
